US08350031B2
Preparation of 2-[(2-Hydroxy-ethyl)-(4-methoxy-benzyl)-amino]-ethanol
25 gms (0.2380 moles) of diethanolamine and 60 ml (0.4312 moles) triethylamine in 75 ml dichloromethane were taken in a reaction vessel and cooled to 0-5° C. with stirring. 40 gms (0.2554 moles) of p-methoxy benzyl chloride in 50 ml of dichloromethane was added thereto slowly. Further, the reaction mass was stirred with dichloromethane and maintained at a temperature of 25-30° C. for about 16 hours. The resulting solution was concentrated to get a residue. 200 ml of acetone was added to the residue, cooled to 0-5° C. for about one hour and filtered. The filtrate was concentrated to obtain the title compound as an oil (50.8 gms).

reactant | diethanolamine | 0.2380 moles, 25 gms | N(CCO)CCO | C4H11NO2
reactant | triethylamine | 0.4312 moles, 60 ml | C(C)N(CC)CC | C6H15N
reactant | p-methoxy benzyl chloride | 0.2554 moles, 40 gms | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | acetone | 200 ml | CC(=O)C | C3H6O
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-[(2-Hydroxy-ethyl)-(4-methoxy-benzyl)-amino]-ethanol | 50.8 gms | OCCN(CCO)CC1=CC=C(C=C1)OC | C12H19NO3
